* C:\Users\horay\Desktop\Jupiter\TCII\TC2\Tareas Semanales\TS1\Sim_Circ.asc
R1 N002 N001 1k
R2 V2 N002 2k
C N003 N001 1µ
R3 N003 0 1k
XU1 N002 N003 V2 opamp Aol=100K GBW=10Meg
V1 N001 0 SINE(0 1 1K) AC 1
.ac dec 100 0.001 10000
.inc opamp.sub
.backanno
.end
