* C:\Users\horay\Desktop\Jupiter\TCII\TC2\Tareas Semanales\TS4\TS4-Activo2.asc
V1 N009 0 SINE(0 1 1K) AC 1 1
Rb N001 N009 1.107
C1 N001 0 16.05
R1 N010 N001 1
C2 N004 N010 98m
XU1 N004 N011 N010 opamp Aol=100K GBW=10Meg
R3 N002 N004 1
XU2 N004 N001 N002 opamp Aol=100K GBW=10Meg
R4 N011 N002 1
R5 N011 0 0.78
C1-2 N003 0 16.05
R1-2 N012 N003 1
Rb-2 N003 N002 0.903
C2-2 N007 N012 65m
R3-2 N005 N007 1
R4-2 N013 N005 1
R5-2 N013 0 0.78
XU3 N007 N003 N005 opamp Aol=100K GBW=10Meg
XU4 N007 N013 N012 opamp Aol=100K GBW=10Meg
Rb-3 N006 N005 1
C1-3 N006 0 7.981
R1-3 N014 N006 1
C2-3 N008 N014 0.161
R3-3 Vo N008 1
R4-3 N015 Vo 1
R5-3 N015 0 0.78
XU5 N008 N006 Vo opamp Aol=100K GBW=10Meg
XU6 N008 N015 N014 opamp Aol=100K GBW=10Meg
.inc opamp.sub
.ac dec 100 0.1 0.25
.backanno
.end
