* C:\Users\horay\Desktop\Jupiter\TCII\TC2\Tareas Semanales\TS5\TS5-Ej2-a.asc
L1 N001 N002 {La}
C1 N002 N001 {Ca}
R2 N002 0 {Rb}
V1 N001 0 SINE(0 1 1K) AC 1
C2 N002 0 {Cb}
L2 N002 0 {Lb}
.param Ra={R/a} Rb={R/(1-a)}
.param La={L/b} Lb={L/(1-b)}
.param Ca={C*d} Cb={C*(1-d)}
.param a=0 b=2 d=1
.param C=0.5 R=1 L=0.25
.ac dec 100 0.01 20
.inc opamp.sub
.backanno
.end
