* C:\Users\horay\Desktop\Jupiter\TCII\TC2\Tareas Semanales\TS5\TS5-Ej2-b.asc
L1 N001 N002 {La}
C1 N002 N001 {Ca}
R2 N002 0 {Rb}
V1 N001 0 SINE(0 1 1K) AC 1
C2 N002 0 {Cb}
.param Ra={R/a} Rb={R/(1-a)}
.param La={L/b} Lb={L/(1-b)}
.param Ca={C*d} Cb={C*(1-d)}
.param a=0 b=1 d=1
.param C=0.707 R=1 L=1.414
.ac dec 100 0.001 20
.backanno
.end
