* C:\Users\horay\Desktop\Jupiter\TCII\TC2\Tareas Semanales\TS5\TS5-Ej2-c.asc
V1 N001 0 SINE(0 1 1K) AC 1
L1 N001 N002 {L}
C1 N001 N002 {C}
R1 N001 N003 {R}
R2 N002 0 {R}
L2 N003 0 {L}
C2 N003 0 {C}
.ac dec 100 0.001 100000
.param R=1 C=2.857 L=1.4
.backanno
.end
